US04482762
4-Methyl-3-decen-5-ol (Ib)
2.4 g (0.1 g atom) of magnesium in 50 ml of absolute ether are placed in an apparatus which is customary for Grignard reactions. While stirring and under a protective gas atmosphere (nitrogen) there are subsequently added dropwise 15.0 g (0.1 mol) of n-amyl bromide in 50 ml of absolute ether so that, after initiation of the reaction, the ether constantly boils slightly. After completing the addition, the mixture is held at reflux temperature for a further 30 minutes, then cooled to 10° C. and a solution of 7.85 g (0.08 mol) of 2-methyl-2-pentenal in 20 ml of absolute ether is added dropwise. In order to complete the reaction, the mixture is stirred at room temperature for a further 12 hours. After decomposing the Grignard complex with saturated ammonium chloride solution and ice, the supernatant ethereal solution is washed with saturated sodium chloride solution and subsequently dried. After evaporating the solvent, there remain 13.6 g of crude product which are fractionally distilled. There are thus obtained 8.9 g of pure 4-methyl-3-decen-5-ol of boiling point 103° C./12 mm Hg, nD20 =1.4499.

reactant | magnesium | 2.4 g | [Mg] | Mg
reactant | n-amyl bromide | 0.1 mol, 15.0 g | CCCCCBr | C5H11Br
reactant | 2-methyl-2-pentenal | 0.08 mol, 7.85 g | CC(C=O)=CCC | C6H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 4-Methyl-3-decen-5-ol | CC(=CCC)C(CCCCC)O | C11H22O
